US08466115B2
Methyl 3-bromo-4-iodobenzoate
A solution of 4-amino-3-bromo-benzoic acid methyl ester (5.0 g, 22.0 mmol from Aldrich) in acetone (35 mL) was treated with 6M HCl (35 mL). The solution was cooled to 0° C. and treated dropwise with NaNO2 (1.84 g, 26.1 mmol) dissolved in 10 mL water. After stirring for 2 hours at 0° C., the reaction was slowly treated with potassium iodide (5.47 g, 32.6 mmol) dissolved in 20 mL water. The reaction mixture was allowed to warm to room temperature and stir for 1 hour. Reaction mixture was diluted with water and extracted with EtOAc (2×150 mL). The combined organic phase was dried (Na2SO4) and concentrated under vacuum. The residue was chromatographed (80 g Redi-Sep column) eluting from 100% heptane to 20:80 EtOAc:heptane to afford the intermediate (4.1 g, 55%) as a solid. 1HNMR (CDCl3) δ ppm: 8.27 (1H), 7.98 (1H), 7.64 (1H), 3.94 (3H).

reactant | 4-amino-3-bromo-benzoic acid methyl ester | 22.0 mmol, 5.0 g | COC(C1=CC(=C(C=C1)N)Br)=O | C8H8BrNO2
reactant | HCl | 6M, 35 mL | Cl | ClH
reactant | NaNO2 | 26.1 mmol, 1.84 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 32.6 mmol, 5.47 g | [I-].[K+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | Methyl 3-bromo-4-iodobenzoate | 4.1 g, 55% | BrC=1C=C(C(=O)OC)C=CC1I | C8H6BrIO2
